US05846989
b) 2-[2-(4-Methylphenyl)ethoxy]acetamide
The subtitle compound (0.77 g) was prepared according to the procedure in example 1 part b using 2-[2-(4-methylphenyl)ethoxy]acetic acid (1.1 g). oxalyl chloride (1.44 g), concentrated ammonium hydroxide (20 ml), and toluene (40 ml).

reactant | 2-[2-(4-methylphenyl)ethoxy]acetic acid | 1.1 g | CC1=CC=C(C=C1)CCOCC(=O)O | C11H14O3
reactant | oxalyl chloride | 1.44 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(4-Methylphenyl)ethoxy]acetamide | 0.77 g | CC1=CC=C(C=C1)CCOCC(=O)N | C11H15NO2
